US07449475B2
N-(5-chloro-2-hydroxyphenyl)urea
2-amino-4-chlorophenol (1.3 g, 8.9 mmol) was dissolved in 1M HCl (10 mL). Ammonium acetate was added to the solution to adjust pH to 5. The stirred mixture was treated with a suspension of potassium cyanate (0.80 mg, 9.8 mmol) in water, and than kept overnight at room temperature. Water was removed by evaporation and the residue was recrystallized from water to afford pink precipate (0.9 g, 55%).

reactant | 2-amino-4-chlorophenol | 8.9 mmol, 1.3 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | Ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | potassium cyanate | 9.8 mmol, 0.80 mg | [O-]C#N.[K+]
solvent | HCl | 1M, 10 mL | Cl | ClH
solvent | water | O | H2O
product | N-(5-chloro-2-hydroxyphenyl)urea | ClC=1C=CC(=C(C1)NC(=O)N)O | C7H7ClN2O2
